US04197110
5.6 g of 2-trichloromethyl-1,3-benzoxazoline (0.023 mole), prepared as indicated above, is reacted with 24 g of dichloroacetic acid anhydride (0.1 mole) in the presence of 0.5 ml of sulphuric acid. The reaction is effected at ambient temperature in 7 hours. After hydrolysis with ice-water the precipitate obtained is filtered off, then washed with a solution of sodium carbonate and extracted with ether. The ethere extract is dried over magnesium sulphate. After evaporation of the ether, a crude product is obtained which, after recrystallization from an ether-pentane mixture, gives 5.7 g (yield 70%) of 2-trichloromethyl-3-dichloroacetyl-1,3-benzoxazoline.

reactant | 2-trichloromethyl-1,3-benzoxazoline | 0.023 mole, 5.6 g | ClC(C=1OC2=C(N1)C=CC=C2)(Cl)Cl | C8H4Cl3NO
reactant | dichloroacetic acid anhydride | 0.1 mole, 24 g | ClC(C(=O)OC(C(Cl)Cl)=O)Cl | C4H2Cl4O3
reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
product | 2-trichloromethyl-3-dichloroacetyl-1,3-benzoxazoline | 5.7 g, yield 70% | ClC(C1OC2=C(N1C(C(Cl)Cl)=O)C=CC=C2)(Cl)Cl | C10H6Cl5NO2
